### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add independent sets

### PR DESCRIPTION
**Pull request by ooovi**
dualize the clique API to obtain independent sets, prove theorems about the dual relationship to cliques, dualize and add some theorems.

---

we only commit dual versions of theorems about the coclique number because we require them for a proof of mantels theorem. i have dualizations of most other theorems in the clique file, in case you also want those in this (or a subsequent) PR. give word if there are any other results you would like to see (maybe a refactor of graph partitions or a theorem about antichains?).

`lemma compl_independentSet_meets_every_edge` and `theorem isIndependentSet_neighborSet_if_triangleFree` are also required for our proof and included in this PR, but might be too specific for mathlib.

- [x] depends on: #18446 where all changes to the clique code origin

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:1]: Could this be in the file about cliques? It seems better this way given that the two concepts are literally dual

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 1]
```diff
@@ -0,0 +1,219 @@
...
+  rintro ⟨v, w⟩ edgee
+  by_contra c
+  simp_all [filter_eq_empty_iff, isIndependentSet_iff]
+  by_cases vins : v ∈ s
+  · have wins : w ∈ s := by by_contra wnins; exact (c wnins).right rfl
+    exact (indA vins wins (Adj.ne edgee)) edgee
+  · exact (c vins).left rfl
+
+-- The neighbors of a vertex i form an independent set in a trianlge free graph G.
+theorem isIndependentSet_neighborSet_if_triangleFree [DecidableEq α] (h: G.CliqueFree 3) (v : α) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:56]:
```suggestion
theorem isIndependentSet_neighborSet_of_triangleFree [DecidableEq α] (h: G.CliqueFree 3) (v : α) :
```

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 2]
```diff
@@ -0,0 +1,219 @@
...
+
+/-! ### N-Independent sets -/
+
+
+section NIndependentSet
+
+variable {n : ℕ} {s : Finset α}
+
+/-- An `n`-IndependentSet in a graph is a set of `n` vertices which are pairwise nonadjacent. -/
+structure IsNIndependentSet (n : ℕ) (s : Finset α) : Prop where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:73]:
```suggestion
@[mk_iff]
structure IsNIndependentSet (n : ℕ) (s : Finset α) where
```

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 3]
```diff
@@ -0,0 +1,219 @@
...
+
+instance [DecidableEq α] [DecidableRel G.Adj] {n : ℕ} {s : Finset α} :
+    Decidable (G.IsNIndependentSet n s) :=
+  decidable_of_iff' _ G.isNIndependentSet_iff
+
+end NIndependentSet
+
+/-! ### Graphs without independent sets -/
+
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:94]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+section IndependentSetFree
+
+variable {n : ℕ}
+
+/-- `G.IndependentSetFree n` means that `G` has no `n`-independent sets. -/
+def IndependentSetFree (n : ℕ) : Prop :=
+  ∀ t, ¬G.IsNIndependentSet n t
+
+/-- An graph is 'n'-independent set free iff its complement is n-clique free. -/
+theorem isIndependentSetFree_iff_isCliqueFree_of_complement :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:104]:
```suggestion
theorem independentSetFree_iff_isCliqueFree_of_complement :
```

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 5]
```diff
@@ -0,0 +1,219 @@
...
+
+/-! ### Coclique Number-/
+
+
+section CocliqueNumber
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- The maximal number of vertices of an independent set in a graph `G`. -/
+noncomputable def cocliqueNum (G : SimpleGraph α) : ℕ := sSup {n | ∃ s, G.IsNIndependentSet n s}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:141]:
```suggestion
noncomputable def indepNum (G : SimpleGraph α) : ℕ := sSup {n | ∃ s, G.IsNIndependentSet n s}
```
for "independence number"

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 6]
```diff
@@ -0,0 +1,219 @@
...
+
+lemma cocliqueNum_eq_compl_cliqueNum : G.cocliqueNum = Gᶜ.cliqueNum := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:143]:
```suggestion
@[simp] lemma cliqueNum_compl : Gᶜ.cliqueNum = G.cocliqueNum := by
```
and can we also have `cocliqueNum_compl`?

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean [hunk 7]
```diff
@@ -0,0 +1,219 @@
...
+
+/-! ### Independent Sets -/
+
+
+section IndependentSet
+
+variable {s : Set α}
+
+/-- An independent set in a graph is a set of vertices that are pairwise not adjacent. -/
+abbrev IsIndependentSet (s : Set α) : Prop :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:29]: I'd say
```suggestion
abbrev IsIndepSet (s : Set α) : Prop :=
```
to keep things reasonably short (and roughly as long as `IsClique`)

**Review by YaelDillies — COMMENTED** [review]
Thank you for doing this! It is long overdue

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean
Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:1]: Sure! I put it in a seperate file because I also dualized most theorems in the clique file and ended up with a lot of lines of code. If you don't think those dualizations should be in mathlib unless someone actually needs them, or don't mind long files, I'll append the code to the clique file.

File: Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean (hunk 6 above)
Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean]: I tried this just now, but the simpNF linter sees a problem I can't seem to reproduce locally:
```
/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
-- Mathlib.Combinatorics.SimpleGraph.IndependentSet
Error: ././././Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean:139:1: error: @SimpleGraph.cliqueNum_compl LINTER FAILED:
simplify fails on left-hand side:
tactic 'simp' failed, nested error:
maximum recursion depth has been reached
use `set_option maxRecDepth <num>` to increase limit
use `set_option diagnostics true` to get diagnostic information
```
I only found anecdotal descriptions of the normal form in the manuals and am now confused. Ideas?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean]: You missed something very important about my suggestion: I am putting the `ᶜ` on the LHS rather than the RHS. Since simp always rewrites left to right, adding both `G.cliqueNum = Gᶜ.cocliqueNum` and `G.cocliqueNum = Gᶜ.cliqueNum` means that it rewrites `G.cocliqueNum` to `Gᶜ.cliqueNum` to `Gᶜᶜ.cocliqueNum` to `Gᶜᶜᶜ.cliqueNum`...

Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/IndependentSet.lean]: Oh my, that is very important indeed! Walking right into a trap with my very first simp lemma :D

**Comment by YaelDillies** [comment]
Don't forget to remove `awaiting-author` once you have addressed all comments 😉

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 8]
```diff
@@ -655,4 +651,194 @@ theorem cliqueFinset_map_of_equiv (e : α ≃ β) (n : ℕ) :
...
+
+/-- An independent set in a graph is a set of vertices that are pairwise not adjacent. -/
+abbrev IsIndepSet (s : Set α) : Prop :=
+  s.Pairwise (fun v w ↦ ¬G.Adj v w)
+
+theorem isIndepSet_iff : G.IsIndepSet s ↔ s.Pairwise (fun v w ↦ ¬G.Adj v w) :=
+  Iff.rfl
+
+/-- An independent set is a clique in the complement graph and vice versa. -/
+theorem isIndepSet_iff_isClique_of_complement : G.IsIndepSet s ↔ Gᶜ.IsClique s := by
```
[the remark this answers is not in the document]
Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: How do we determine if something can be marked `simp`? I tried, and nothing broke. I also added two `..._compl` lemmata for all the other concepts, so there is quite a few new `@[simp]`s. Hope that's ok?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 9]
```diff
@@ -655,4 +651,194 @@ theorem cliqueFinset_map_of_equiv (e : α ≃ β) (n : ℕ) :
 
 end CliqueFinset
 
+/-! ### Independent Sets -/
+
+
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:656]: I think that's because mathport inserted two newlines, not because we agreed on that style 😅

**Review by YaelDillies — APPROVED** [review]
Looks good to me. Will leave it to you, @b-mehta

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: If nothing broke, amazing!

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 10]
```diff
@@ -655,4 +651,211 @@ theorem cliqueFinset_map_of_equiv (e : α ≃ β) (n : ℕ) :
...
+  by_cases vins : v ∈ s
+  · have wins : w ∈ s := by by_contra wnins; exact (c wnins).right rfl
+    exact (indA vins wins (Adj.ne he)) he
+  · exact (c vins).left rfl
+
+/-- The neighbors of a vertex `v` form an independent set in a triangle free graph `G`. -/
+theorem isIndepSet_neighborSet_of_triangleFree [DecidableEq α] (h: G.CliqueFree 3) (v : α) :
+    G.IsIndepSet (G.neighborSet v) := by
+  by_contra nind
+  simp [SimpleGraph.IsIndepSet, Set.Pairwise] at nind
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:696]: We usually avoid non-terminal `simp` calls in mathlib: you can use `simp?` and follow the code action here. Similarly below

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:696]: No, those are definitely fine

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 11]
```diff
@@ -655,4 +651,211 @@ theorem cliqueFinset_map_of_equiv (e : α ≃ β) (n : ℕ) :
...
+noncomputable def indepNum (G : SimpleGraph α) : ℕ := sSup {n | ∃ s, G.IsNIndepSet n s}
+
+@[simp] lemma cliqueNum_compl : Gᶜ.cliqueNum = G.indepNum := by
+  simp [indepNum, cliqueNum]
+
+@[simp] lemma indepNum_compl : Gᶜ.indepNum = G.cliqueNum := by
+  simp [indepNum, cliqueNum]
+
+theorem IsIndepSet.card_le_indepNum
+    [Fintype α] {t : Finset α} {tc : G.IsIndepSet t} : #t ≤ G.indepNum := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:792]:
```suggestion
    [Fintype α] {t : Finset α} (tc : G.IsIndepSet t) : #t ≤ G.indepNum := by
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 12]
```diff
@@ -655,4 +651,211 @@ theorem cliqueFinset_map_of_equiv (e : α ≃ β) (n : ℕ) :
...
+  simp [indepNum, ← isClique_compl, ← isNClique_compl] at *
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:793]: similarly you should adjust the `simp` calls here and below (the calls to `simp` in `cliqueNum_compl` and `indepNum_compl` close the goal, so they're fine!)

**Comment by YaelDillies** [comment]
You can merge master to fix the weird CI error

**Comment by ooovi** [comment]
> You can merge master to fix the weird CI error

I did, then the weird error appeared 😅

**Comment by YaelDillies** [comment]
Are you sure you did `git fetch` before running `git merge origin/master`?

**Comment by ooovi** [comment]
> Are you sure you did `git fetch` before running `git merge origin/master`? If so, then I am afraid we will have to let Damiano know!

I was sure, albeit unrightly so! Sorry.
